US08232289B2
1. Ethyl 1-(3-fluoro-2-pyridyl)-3-(methoxymethyl)pyrazole-4-carboxylate
To a solution of 3-bromomethyl-1-(3-fluoro-pyridin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (1.13 g, 3.44 mmol) in acetone (23 mL), potassium iodide (200.1 mg), potassium carbonate (865.33 mg) and methanol (4.18 mL) are added. The mixture is stirred at room temperature for 48 hours. Methyl and ethyl ester of the desired compound are detected. Solvents are evaporated. Residue is diluted with dichloromethane and washed with water. Organic layer is decanted, dried over magnesium sulfate and solvent evaporated. Crude is purified by normal phase Isco chromatography using as eluent ethyl acetate and hexane to yield 599 mg of a mixture of both methyl and ethyl esters. MS (m/z): 266 (M+1) and 280 (M+1).

reactant | 3-bromomethyl-1-(3-fluoro-pyridin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 3.44 mmol, 1.13 g | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1F)CBr | C12H11BrFN3O2
reactant | potassium iodide | 200.1 mg | [I-].[K+]
reactant | potassium carbonate | 865.33 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 4.18 mL | CO | CH4O
solvent | acetone | 23 mL | CC(=O)C | C3H6O
product | Ethyl 1-(3-fluoro-2-pyridyl)-3-(methoxymethyl)pyrazole-4-carboxylate | FC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OCC)COC | C13H14FN3O3
